US08247429B2
methyl 3-(acetylamino)-6-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2-nitrobenzoate
A suspension of methyl 3-(acetylamino)-6-bromo-2-nitrobenzoate (500 mg, 1.58 mmol), palladium acetate (36.0 mg, 0.16 mmol), triphenylphosphine (84.0 mg, 0.32 mmol), potassium carbonate (328 mg, 2.37 mmol) and methyl acrylate (213 μL, 2.37 mmol) in N,N-dimethylformamide (15 mL) was stirred under a nitrogen atmosphere at 110° C. for 30 min with heating. The reaction solution was diluted with water, extracted with ethyl acetate, washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=25/75→55/45) to give the title compound (303 mg, yield 60%).

reactant | methyl 3-(acetylamino)-6-bromo-2-nitrobenzoate | 1.58 mmol, 500 mg | C(C)(=O)NC=1C(=C(C(=O)OC)C(=CC1)Br)[N+](=O)[O-] | C10H9BrN2O5
reactant | triphenylphosphine | 0.32 mmol, 84.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 2.37 mmol, 328 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl acrylate | 2.37 mmol, 213 μL | C(C=C)(=O)OC | C4H6O2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | palladium acetate | 0.16 mmol, 36.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 3-(acetylamino)-6-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2-nitrobenzoate | 303 mg, yield 60% | C(C)(=O)NC=1C(=C(C(=O)OC)C(=CC1)\C=C\C(=O)OC)[N+](=O)[O-] | C14H14N2O7
